US08865712B2
h) (R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-5-difluoromethyl-morpholin-3-one
To a solution of N—[(R)-1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide (2.32 g, 4.88 mmol) in t-butanol (50 ml) was added potassium tert-butoxide (7.31 ml, 7.31 mmol, 1M in THF) and the solution was stirred in a closed vial for 18 h at 100° C. The reaction mixture was diluted with ethyl acetate, washed with water, sat. NaHSO4 solution and brine, dried over sodium sulfate, filtered and evaporated. The crude product (2.36 g) was chromatographed over silica gel (24 g redisep column, cyclohexane/ethyl acetate 10-80%) to give the title compound. 1.13 g (71% yield). Triethylsilylated lactam (640 mg) was recovered.

reactant | N—[(R)-1-(6-bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 4.88 mmol, 2.32 g | BrC1=CC(=C(C(=N1)[C@](C(F)F)(CO)NC(CCl)=O)F)[Si](CC)(CC)CC | C16H23BrClF3N2O2Si
reactant | potassium tert-butoxide | 7.31 mmol, 1M, 7.31 ml | CC(C)([O-])C.[K+]
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-5-(6-Bromo-3-fluoro-pyridin-2-yl)-5-difluoromethyl-morpholin-3-one | 71% yield | BrC1=CC=C(C(=N1)[C@@]1(COCC(N1)=O)C(F)F)F | C10H8BrF3N2O2
